US05089504
3-Butyryl-4-(4-hydroxy-2-methylphenylamino)quinoline-8-carbaldehyde (2.0 g, 6 mmol) was stirred in dry tetrahydrofuran (200 ml) at -30° C. and treated with a solution of methylmagnesium iodide in ether. Cooling was removed and the mixture was allowed to warm to room temperature. The mixture was washed with saturated ammonium chloride solution (x2) and the aqueous extracted with dichloromethane. The combined organics were dried and evaporated to afford a brown oil which was chromatographed (silica gel, 1% methanol in dichloromethane) to return aldehyde starting material (0.16 g ) and give 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(1-hydroxyethyl)quinoline as yellow crystals from ether-petrol (0.45 g, 21.5%), m.p. 182° C.-4° C.

reactant | 3-Butyryl-4-(4-hydroxy-2-methylphenylamino)quinoline-8-carbaldehyde | 6 mmol, 2.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)C=O | C21H20N2O3
reactant | methylmagnesium iodide | C[Mg]I
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-(1-hydroxyethyl)quinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)C(C)O | C22H24N2O3
